US08440663B2
A mixture of 2-[(4-morpholin-4-ylphenyl)amino]-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one A (312 mg, 1 mmol), phosphorous oxybromide (717 mg, 2.5 mmol), and diisopropylethylamine (130 mg, 1 mmol) in anhydrous toluene (15 ml) was heated at reflux under N2 overnight. The mixture was cooled down to room temperature, and the solid was filtered, washed with sat. NaHCO3, water, and dried over MgSO4. The solvent was removed in vacuo to give the product 4-bromo-N-(4-morpholin-4-ylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine B (284 mg, 76%) as a black solid. This was clean and used as such without further purification.

reactant | 2-[(4-morpholin-4-ylphenyl)amino]-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | N1(CCOCC1)C1=CC=C(C=C1)NC=1NC(C2=C(N1)NC=C2)=O | C16H17N5O2
reactant | phosphorous oxybromide | 2.5 mmol, 717 mg | P(=O)(Br)(Br)Br | Br3OP
reactant | diisopropylethylamine | 1 mmol, 130 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-N-(4-morpholin-4-ylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | BrC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCOCC1)NC=C2 | C16H16BrN5O
